US07875645B2
3-Benzyloxy-2,6-diethyl-benzaldehyde was prepared from 2,6-diethyl-3-hydroxy-benzaldehyde, cesium carbonate and benzyl bromide in analogy to Example 213b): yellow oil; 1H-NMR (CDCl3): 1.20 (3H, t, CH3), 1.21 (3H, t, CH3), 2.87 (2H, q, CH2), 3.03 (2H, q, CH2), 5.09 (2H, s, OCH2), 7.04 (2H, ABq, 2×ArH), 7.33-7.45 (5H, m, Ph), 10.58 (1H, s, CH═O).

reactant | 2,6-diethyl-3-hydroxy-benzaldehyde | C(C)C1=C(C=O)C(=CC=C1O)CC | C11H14O2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 3-Benzyloxy-2,6-diethyl-benzaldehyde | C(C1=CC=CC=C1)OC=1C(=C(C=O)C(=CC1)CC)CC | C18H20O2
